US05194442
Trans-5-(5-chloro-1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol
22.7 g (72 mmol) of tetrabutylammonium fluoride trihydrate are added to a mixture of 10.54 g (65 mmol) of 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin and 19.4 g (96 mmol) of 5-chloro-2-trimethylsilyloxy-pyridine, and the mixture is heated at 90° C. for 3 hours. The mixture is stirred into water and extracted several times with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, and the solvent is evaporated off in vacuo. The residue is crystallized in n-butyl acetate. Crystals of melting point 175.5°-177.5° C. are obtained.

reactant | tetrabutylammonium fluoride trihydrate | 72 mmol, 22.7 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4,5-epoxy-2,3,4,5-tetrahydro-1-benzoxepin | 65 mmol, 10.54 g | O1C2CCOC3=C(C21)C=CC=C3 | C10H10O2
reactant | 5-chloro-2-trimethylsilyloxy-pyridine | 96 mmol, 19.4 g | ClC=1C=CC(=NC1)O[Si](C)(C)C | C8H12ClNOSi
solvent | water | O | H2O
product | Trans-5-(5-chloro-1,2-dihydro-2-oxo-pyrid-1-yl)-2,3,4,5-tetrahydro-1-benzoxepin-4-ol | ClC=1C=CC(N(C1)[C@H]1[C@@H](CCOC2=C1C=CC=C2)O)=O | C15H14ClNO3
